Anti-windup resettable integrator example

.control
pre_codemodel build/ngfuncs.cm
.endc

.include lib/ngfuncs.lib

Vin in 0 pwl(0 1 1 1 1.001 -1 2 -1)
Vrst rst 0 dc 0

Xint in rst out NG_INT_AW_PULSE params: ic=0 gain=1 lo=-0.25 hi=0.25 vth=0.5

Rin in 0 1G
Rrst rst 0 1G
Rout out 0 1G

.tran 1m 2

.control
run
plot v(in) v(out)
.endc

.end

